US09289430B2
2-amino-5-(piperidin-1-yl)-N-(1-(3-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)benzamide
Into a 100-mL round bottom flask, was placed a solution of 2-nitro-5-(piperidin-1-yl)-N-(1-(3-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)benzamide (500 mg, 1.09 mmol, 1.00 equiv) in methanol (20 mL). The solution was treated with Pd/C (500 mg) and stirred under an atmosphere of hydrogen for 2 h at room temperature. The solids were filtered out. The resulting mixture was concentrated under vacuum to yield 450 mg (96%) of product as a brown solid.

reactant | 2-nitro-5-(piperidin-1-yl)-N-(1-(3-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)benzamide | 1.09 mmol, 500 mg, 1.00 equiv | [N+](=O)([O-])C1=C(C(=O)NC2=NN(C=N2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)N1CCCCC1 | C21H19F3N6O3
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 2-amino-5-(piperidin-1-yl)-N-(1-(3-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)benzamide | 450 mg, 96% | NC1=C(C(=O)NC2=NN(C=N2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)N1CCCCC1 | C21H21F3N6O
